US04548940
1,3-Diaminopropane (60 ml) and 2-nitroamino-5-(6-methylpyrid-3-ylmethyl)-4-pyrimidone (5.22 g) were heated together under reflux for 2.5 hr. Excess amine was stripped off and the residue recrystallised from ethanol to give 2-(3-aminopropylamino)-5-(6-methylpyrid-3-ylmethyl)-4-pyrimidone, (4.3 g; 79%) m.p. 162°-164° C.

reactant | 2-nitroamino-5-(6-methylpyrid-3-ylmethyl)-4-pyrimidone | 5.22 g | [N+](=O)([O-])NC1=NC=C(C(N1)=O)CC=1C=NC(=CC1)C | C11H11N5O3
solvent | 1,3-Diaminopropane | 60 ml | NCCCN | C3H10N2
product | 2-(3-aminopropylamino)-5-(6-methylpyrid-3-ylmethyl)-4-pyrimidone | NCCCNC1=NC=C(C(N1)=O)CC=1C=NC(=CC1)C | C14H19N5O
